US04409215
Benzhydryl 7-[(2-formamidothiazol-4-yl)glyoxylamido]-3-methylthiomethyl-3-cephem-4-carboxylate (7.0 g) was dissolved in a solution of methylene chloride (70 ml), anisole (7 ml) and trifluoroacetic acid (14 ml), and the mixture was stirred at ambient temperature for an hour After the solvent was removed by distillation under reduced pressure, the residue was dissolved in water, adjusted to pH 2.0 with conc. hydrochloric acid and then extracted with ethyl acetate. The extract was washed with an aqueous sodium chloride and dried over magnesium sulfate, followed by evaporation. The residue was pulverized with diisopropyl ether to obtain 7-[(2-formamidothiazol-4-yl)glyoxylamido]-3-methylthiomethyl-3-cephem-4-carboxylic acid (3.3 g).

reactant | Benzhydryl 7-[(2-formamidothiazol-4-yl)glyoxylamido]-3-methylthiomethyl-3-cephem-4-carboxylate | 7.0 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=O | C28H24N4O6S3
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 7 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 14 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-[(2-formamidothiazol-4-yl)glyoxylamido]-3-methylthiomethyl-3-cephem-4-carboxylic acid | 3.3 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC)C(=O)O)C1=O)=O | C15H14N4O6S3
